US07179823B1
Lithium aluminium hydride (540 mg) was added gradually to a solution of ethyl 1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazole-4-carboxylate (7.10 g) in tetrahydrofuran (50 ml) at 0° C., which was stirred for 30 minutes. Sodium sulfate decahydrate (4.33 g) was added to the reaction mixture, and the precipitate was removed by filtration. The filtrate was concentrated, and the residue was subjected to silica gel column chromatography to obtain [1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]methanol (6.31 g, yield: 96%) as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 147˜148° C.

reactant | Lithium aluminium hydride | 540 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazole-4-carboxylate | 7.10 g | C1(=CC=CC=C1)C=1SC=C(N1)COC1=CC=C(CN2N=C(C(=C2)C(=O)OCC)C=2SC=CC2)C=C1 | C27H23N3O3S2
reactant | Sodium sulfate decahydrate | 4.33 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | [1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]methanol | 6.31 g, yield: 96% | C1(=CC=CC=C1)C=1SC=C(N1)COC1=CC=C(CN2N=C(C(=C2)CO)C=2SC=CC2)C=C1 | C25H21N3O2S2
